US04329347
6-[4-(4-Chlorophenyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 6-[4-(4-chlorophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[4-(4-chlorophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | ClC1=CC=C(C=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H20ClNO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Chlorophenyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril | ClC1=CC=C(C=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H20ClNO3S
